US04279912
820 mg of ethyl 7-chloroimidazo-[1,2-a]-quinoline-2-carboxylate in 25 ml of ethanol and 1 N sodium hydroxide solution was added thereto. The mixture obtained was heated on a steam bath for 30 minutes and then was diluted with 50 ml of water. The mixture was neutralized with 3.5 ml of 2 N hydrochloric acid and then cooled to obtain pale cream crystals of 7-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate melting at 278°-279° C. The I.R. spectrum suggests that the compound exists at least partially in the zwitterionic form.

reactant | ethyl 7-chloroimidazo-[1,2-a]-quinoline-2-carboxylate | 820 mg | ClC=1C=C2C=CC=3N(C2=CC1)C=C(N3)C(=O)OCC | C14H11ClN2O2
reactant | hydrochloric acid | 2 N, 3.5 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 7-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate | O.ClC=1C=C2C=CC=3N(C2=CC1)C=C(N3)C(=O)O | InChI=1S/C12H7ClN2O2.H2O/c13-8-2-3-10-7(5-8)1-4-11-14-9(12(16)17)6-15(10)11;/h1-6H,(H,16,17);1H2
